US08049015B2
(2-Bromo-5-trifluoromethyl-benzyl)-ethyl-amine and benzyl chloroformate were reacted as described in Example 5, Step 4 to provide (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester.

reactant | (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H17BrF3NO2
